Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
Single chamber pacemaker placement ___

 
History of Present Illness:
Ms. ___ is an ___ year old F w/ PMH of a fib (on
apixaban), hypothyroidism, hyperlipidemia, hypertension, and 
GERD
who presented to the Emergency Room after a fall. She was 
walking
with a walker when she fell and hit the left side of her head on
a piece of furniture. She did not lose consciousness. She 
reports
feeling normal before the fall (no presyncope, nausea,
palpitations, chest pain, SOB). She is unsure if she tripped on
something or not - she seems to have a memory deficit of the
seconds right before the fall. She fell on her left side and was
unable to get up. Her daughter was there and took her to ___ Urgent Care. A ___ was performed which was negative and 
an
x-ray of her R knee showed no fracture. However, her heart rate
was 120 initially and then dropped to the ___ in atrial
fibrillation, so she was referred to the ED. In the ED, she
denied any fevers, cough, chills, chest pain, shortness of
breath, lightheadedness, or syncope. She has chronic nausea and
abdominal pain, but these are unchanged. She does not see a
cardiologist, but has been told before she "may need a
pacemaker."

In the ED initial vitals were notable for HR 45, BP 153/83, RR
18, SpO2 98% on RA. Exam notable for bradycardia, clear lungs, 
no
___, neuro exam intact. Trauma evaluation was negative for
evidence of trauma. Labs from ___ urgent care showed
CBC notable for plts 127, normal chem10, normal LFTs, and trop
negative x1. EKG showed slow a fib. Given that the patient was
hemodynamically stable, no interventions were performed. She is
being admitted for workup of sick sinus syndrome and need for
pacemaker.  Vitals on transfer notable for HR 36 and BP 165/83. 

On arrival to the floor, she denies chest pain, SOB, DOE and
feels well overall with no complaints.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
Hypertension  
Obesity
Hyperlipidemia 

2. CARDIAC HISTORY  
A fib on apixaban 

3. OTHER PAST MEDICAL HISTORY  
Hypothyroidism
Chronic abdominal pain
GERD
Irritable bowel syndrome 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  Mother - breast cancer. Father - lung
cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
====================================
VS: Temp: 97.6 (Tm 97.6), BP: 179/74, HR: 46, RR: 17, O2 sat:
98%, O2 delivery: Ra 
GENERAL: Well developed, well nourished elderly woman in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 

NECK: Supple without JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Bradycardic with an irregular rhythm. Normal S1, S2. No
murmurs, rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
=========================
VS: Temp: 97.6 (Tm 97.6), BP: 179/74, HR: 46, RR: 17, O2 sat:
98%, O2 delivery: Ra 
GENERAL: Well developed, well nourished elderly woman in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 

NECK: Supple without JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Bradycardic with an irregular rhythm. Normal S1, S2. No
murmurs, rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: No focal deficits

NEURO: CN II-XII in tact, no focal deficits
 
Pertinent Results:
ADMISSION LABS
===================
___ 11:45AM BLOOD WBC-6.6 RBC-4.42 Hgb-13.8 Hct-42.0 MCV-95 
MCH-31.2 MCHC-32.9 RDW-13.5 RDWSD-47.5* Plt ___
___ 11:45AM BLOOD Glucose-94 UreaN-14 Creat-0.7 Na-144 
K-3.6 Cl-104 HCO3-29 AnGap-11
___ 01:54PM BLOOD ALT-11 AST-19 AlkPhos-61 TotBili-0.6
___ 01:54PM BLOOD cTropnT-<0.01
___ 01:54PM BLOOD Albumin-3.8 Calcium-9.7 Phos-2.9 Mg-1.9
___ 01:54PM BLOOD TSH-0.86

DISCHARGE LABS
================
___ 07:30AM BLOOD WBC-8.3 RBC-4.14 Hgb-13.0 Hct-38.5 MCV-93 
MCH-31.4 MCHC-33.8 RDW-13.6 RDWSD-46.4* Plt ___
___ 07:30AM BLOOD Glucose-80 UreaN-15 Creat-0.6 Na-146 
K-3.7 Cl-106 HCO3-27 AnGap-13

STUDIES/IMAGING
==================
___ XR Knee
No acute fracture.  Severe degenerative changes, predominantly 
involving the
medial joint compartment, slightly progressed.

___ CT Head
No acute intracranial findings.
Brain parenchyma atrophy, moderate chronic small vessel ischemic 
changes.

___ TTE
The estimated right atrial pressure is >15mmHg. There is mild 
symmetric left ventricular hypertrophy. There is normal regional 
left ventricular systolic function. Overall left ventricular 
systolic function is normal. Quantitative biplane left 
ventricular ejection fraction is 65 %. Dilated right ventricular 
cavity with normal free wall motion. There is mild [1+] mitral 
regurgitation. There is mild [1+] tricuspid regurgitation. There 
is mild pulmonary artery systolic hypertension. IMPRESSION: Mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/ global biventricular systolic function. Mild 
mitral and tricuspid regurgitation. Mild pulmonary hypertension.

___
Lungs are clear.  Left-sided pacemaker lead projects to the 
right ventricle. There is no pleural effusion.  No pneumothorax 
is seen

 
Brief Hospital Course:
Ms. ___ is an ___ year old F w/ PMH of a fib (on 
apixaban), hypothyroidism, hyperlipidemia, hypertension, and 
GERD who presented after a syncopal event and fall in the 
setting of bradycardia.

ACTIVE ISSUES
================
# The patient presented with after a fall and was unable to 
describe the event or recall the moment of the fall, concerning 
for syncope. No major trauma inflicted by the fall with 
reassuring radiographs and negative head CT. She has known 
atrial fibrillation with slow ventricular response and was found 
to be bradycardic while admitted to the ___. She remained 
hemodynamically stable throughout however and demonstrated some 
chronotropic augmentation while ambulating with HR to the ___. 
The electrophysiology team was consulted and recommended 
pacemaker placement. A TTE was done first which showed normal 
cavity size and regional/ global biventricular systolic 
function. She then underwent procedure for placement of single 
chamber pacemaker that was uncomplicated (device details below). 
Afterwards she was observed to have near 100% V pacing at 60bmp. 
The patient was continued on home apixiban throughout.

Date of Implant: ___
Indication: AFib, bradycardia, syncope
Device brand/name: ___ XT SR MRI
Model Number: ___

CHRONIC ISSUES
================ 
# HTN
The patient was continued on home HCTZ.

# HLD
The patient was continued on home pravastatin.

# Hypothyroidism
The patient was continued on home levothyroxine.

TRANSITIONAL ISSUES
======================
[] Please ensure follow up with EP and general cardiology as 
discussed above. 

[] Recommend repeat echocardiography at some point in the future 
to reassess systolic function given that she is paced nearly 
100% of the time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Stool Softener (docusate sodium) 50 mg oral DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. TraMADol 50 mg PO TID:PRN Pain - Moderate 
6. Apixaban 5 mg PO BID 
7. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Pravastatin 20 mg PO QPM  
6.  Stool Softener (docusate sodium) 50 mg oral DAILY  
7.  TraMADol 50 mg PO TID:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation with slow ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why were you admitted to the hospital?
- You fell at home and your heart rate was found to be very low.

What was done while you were in the hospital?
- The electrophysiology team, which are the doctors that 
___ in heart rhythm, evaluated you and recommended that 
you receive a pacemaker to keep your heart rate up.
- An ultrasound of your heart was done which showed normal 
function.
- You underwent a pacemaker placement procedure, which went 
well.

What should you do when you go home?
- Please take all your medications as prescribed.
- You will be contacted on ___ to schedule an 
appointment with a general cardiologist and an 
elecrophysiologist. If you do not hear from someone on ___, 
please call ___ to arrange.

We wish you the best,

Your ___ Care team

 
Followup Instructions:
___